US03959295
40 g of ammonia gas is introduced in the course of about 4 hours at 13°-15°C into a mixture consisting of 126 g of acetone, 22.5 g of methanol and 4.7 g of ammonium chloride. The reaction mixture is subsequently stirred for a further 30 minutes at the same temperature. An addition is then made to the reaction mixture of 220 g of diacetone alcohol and 110 g of acetone; the whole is heated within 1 hour to 55°C and held at this temperature for 12 hours. Processing by fractional distillation yields 125 g of 2,2,6,6-tetramethyl-4-oxopiperidine.

reactant | ammonia | 40 g | N | H3N
reactant | ammonium chloride | 4.7 g | [Cl-].[NH4+]
reactant | diacetone alcohol | 220 g | CC(CC(C)(O)C)=O | C6H12O2
reactant | acetone | 110 g | CC(=O)C | C3H6O
reactant | acetone | 126 g | CC(=O)C | C3H6O
solvent | methanol | 22.5 g | CO | CH4O
product | 2,2,6,6-tetramethyl-4-oxopiperidine | 125 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
